US08802864B2
b) 5-[(3S)-3-pyrrolidinylmethyl]-4-[4-(7-quinolinyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one Hydrochloride
Into an 8 mL vial was placed 1,1-dimethylethyl (3S)-3-({5-oxo-4-[4-(7-quinolinyl)phenyl]-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-1-pyrrolidinecarboxylate (0.382 mmol). Added was 4N HCl in dioxane (2.0 mL). The vial was capped and the solution was agitated at room temperature for 1 h. The reaction was concentrated in vacuo to afford the title compound as the HCl salt (150 mg, 96%). No further purification was performed on this compound. MS(ES)+ m/e 372.2 [M+H]+.

reactant | 1,1-dimethylethyl (3S)-3-({5-oxo-4-[4-(7-quinolinyl)phenyl]-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-1-pyrrolidinecarboxylate | 0.382 mmol | O=C1N(C(=NN1)C[C@H]1CN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)C1=CC=C2C=CC=NC2=C1 | C27H29N5O3
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | 5-[(3S)-3-pyrrolidinylmethyl]-4-[4-(7-quinolinyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one Hydrochloride | 150 mg, 96% | Cl.N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=CC=C(C=C1)C1=CC=C2C=CC=NC2=C1 | InChI=1S/C22H21N5O.ClH/c28-22-26-25-21(12-15-9-11-23-14-15)27(22)19-7-5-16(6-8-19)18-4-3-17-2-1-10-24-20(17)13-18;/h1-8,10,13,15,23H,9,11-12,14H2,(H,26,28);1H/t15-;/m0./s1
